US07326791B2
(a) ethyl oxo-(2-oxocyclopentyl)acetate
A solution of 15.5 mL (0.175 mol) of cyclopentanone and 23.8 mL (0.175 mol) of diethyl oxalate in 90 mL of tetrahydrofuran are added dropwise at 0° C. to a suspension of 7.0 g (0.175 mol) of sodium hydride (50% in oil) in 60 mL of tetrahydrofuran. The mixture is stirred for another 10 minutes at 0° C. and then heated to ambient temperature. After 5 hours, an exothermic reaction sets in and the mixture heats up to 50° C. After 16 hours, it is combined with ice water and extracted with ether. The aqueous phase is adjusted to pH 4 with glacial acetic acid and extracted with ethyl acetate, dried and concentrated by evaporation. The residue is distilled in vacuo. BP(23 mbar)=135° C.-141° C. Yield: 19.6 g (61%).

reactant | cyclopentanone | 0.175 mol, 15.5 mL | C1(CCCC1)=O | C5H8O
reactant | diethyl oxalate | 0.175 mol, 23.8 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium hydride | 0.175 mol, 7.0 g | [H-].[Na+]
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | ethyl oxo-(2-oxocyclopentyl)acetate | O=C(C(=O)OCC)C1C(CCC1)=O | C9H12O4
